US07910585B2
To a stirring solution of 5-fluoro-2-methyl-8-nitro-3,4-dihydro-2H-isoquinolin-1-one (2.24 g, 10 mmol) in DMF (15 mL) is added 2-(methylsulfonyl)ethanol (1.86 g, 15 mmol) and the solution cooled to 0° C. Sodium hydride (1.2 g, 30 mmol) is added and the reaction mixture allowed to warm to room temperature and then stirred for 1 hour. The mixture is quenched with a 1N HCl solution and partitioned between ethyl acetate and brine. The organic layer is concentrated to dryness and the crude organics purified by flash column chromatography to give 5-hydroxy-2-methyl-8-nitro-3,4-dihydro-2H-isoquinolin-1-one in 70% yields. 1H-NMR (400 MHz, δ, ppm) Acetone-d6: 2.85-3.0 (m, 2H), 3.06 (s, 3H), 3.6-3.7 (m, 2H), 7.05-7.1 (m, 1H), 7.35-7.41 (m, 1H), 9.62 (brs, 1H).

reactant | 5-fluoro-2-methyl-8-nitro-3,4-dihydro-2H-isoquinolin-1-one | 10 mmol, 2.24 g | FC1=C2CCN(C(C2=C(C=C1)[N+](=O)[O-])=O)C | C10H9FN2O3
reactant | 2-(methylsulfonyl)ethanol | 15 mmol, 1.86 g | CS(=O)(=O)CCO | C3H8O3S
reactant | Sodium hydride | 30 mmol, 1.2 g | [H-].[Na+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 5-hydroxy-2-methyl-8-nitro-3,4-dihydro-2H-isoquinolin-1-one | OC1=C2CCN(C(C2=C(C=C1)[N+](=O)[O-])=O)C | C10H10N2O4
